US04792570
A mixture of 4-hydroxybiphenyl (34 g), 1-(p-toluenesulfonyloxy)-6-chlorohexane (60 g), anhydrous potassium carbonate (60 g) and dimethylformamide (400 ml) was stirred at 60° C. for 6 hours. Excess potassium carbonate was removed by filtration. Water and ethyl acetate were then added and the resultant solution washed with water, dried with magnesium sulfate and evaporated. The resulting crude residue was then dissolved in ethyl acetate/hexane and recrystallized to yield 1-(4-biphenyloxy)-6-chlorohexane.

reactant | 4-hydroxybiphenyl | 34 g | OC1=CC=C(C=C1)C1=CC=CC=C1 | C12H10O
reactant | 1-(p-toluenesulfonyloxy)-6-chlorohexane | 60 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCCCl)C | C13H19ClO3S
reactant | potassium carbonate | 60 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 1-(4-biphenyloxy)-6-chlorohexane | C1(=CC=C(C=C1)OCCCCCCCl)C1=CC=CC=C1 | C18H21ClO
